US05703110
Methyl 2-ethoxy-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate
A mixture of methyl 1-[(2'-cyanobiphenyl-4-yl)methyl]-2-ethoxybenzimidazole-7-carboxylate (1.85 g) and trimethyltin azide (2.80 g) in toluene (15 ml) were heated under reflux for one day. The reaction mixture was concentrated to dryness. To the residue were added methanol (50 ml) and 1N-HCl (20 ml) and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was adjusted to about pH 3-4 with 1N-NaOH. After removal of the solvent, the residual syrup was purified by column chromatography on silica gel to give crystals. Recrystallization from ethyl acetate-benzene gave colorless crystals (1.16 g, 56%), m.p. 191°-193° C. (decomp.).

reactant | methyl 1-[(2'-cyanobiphenyl-4-yl)methyl]-2-ethoxybenzimidazole-7-carboxylate | 1.85 g | C(#N)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC2=C1C(=CC=C2)C(=O)OC)OCC | C25H21N3O3
reactant | trimethyltin azide | 2.80 g | C[Sn](C)(C)N=[N+]=[N-]
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | Methyl 2-ethoxy-1-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]benzimidazole-7-carboxylate | 1.16 g, 56% | C(C)OC1=NC2=C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C(=CC=C2)C(=O)OC | C25H22N6O3
